US06376672B1
In analogy to the procedure described in example 1) (g) the (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was deprotected with HCl in methanol to yield the (R)-3-[(3S,4R,5R)-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidin-3-yloxy]-propane-1,2-diol as light yellow solid; MS: 633 (M+H)+.

reactant | (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OC[C@@H]1OC(OC1)(C)C | C43H52N2O11
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | (R)-3-[(3S,4R,5R)-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidin-3-yloxy]-propane-1,2-diol | COC1=CC(=CC2=CC=CC=C12)CO[C@@H]1[C@H]([C@@H](CNC1)OC[C@@H](CO)O)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C35H40N2O9
